US05218109
A solution of 78 mg of 20-methyl-1α,3β-bis(methoxymethoxy)-21-p-toluenesulfonyloxypregna-5,7-diene in 2 ml of diethyl ether was added dropwise, at -50° C. to -60° C., to a diethyl ether solution of diisoamylcopper lithium prepared from 100 mg of cuprous iodide and 0.9 ml of a 1.1N diethyl ether solution of isoamyllithium in 2 ml of diethyl ether. After stirring at -30° C. for 1 hour, the reaction mixture was poured into a cold aqueous solution of ammonium chloride, followed by extraction with diethyl ether. The extract was washed with 10% aqueous ammonia, water and an aqueous solution of sodium chloride, dried over sodium sulfate and concentrated. The residue was dissolved in 1 ml of methanol, 1 ml of 1N hydrochloric acid was added, and the mixture was stirred at room temperature for 10 hours. The reaction mixture was diluted with water and extracted with methylene chloride. The extract was washed with an aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium chloride, dried over sodium sulfate and concentrated. The residue was washed with cold ethyl acetate to give 37 mg of cholesta-5,7-diene-1α,3β-diol, whose 1H NMR spectrum was identical with that obtained in Reference Example 8.

reactant | 20-methyl-1α,3β-bis(methoxymethoxy)-21-p-toluenesulfonyloxypregna-5,7-diene | 78 mg | CC(COS(=O)(=O)C1=CC=C(C=C1)C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)OCOC | C33H48O7S
reactant | diisoamylcopper lithium | [Li].C(CC(C)C)[Cu]CCC(C)C
reactant | isoamyllithium | C(CC(C)C)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.1N | C(C)OCC | C4H10O
product | cholesta-5,7-diene-1α,3β-diol | 37 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H44O2
